US05461050
A mixture of 34 g of (1 H-imidazol-2-yl)(4-piperidinyl)methanone dihydrobromide, 20 g of benzaldehyde and 15 g of potassium acetate in 500 ml of methanol and 1 ml of a solution of thiophene in methanol (4%) was hydrogenated at normal pressure and at 50° C. in the presence of 3 g of palladium-on-charcoal catalyst 10%. After the calculated amount of hydrogen was taken up, the catalyst was filtered off and the flitrate was evaporated. The residue was partitioned between dichloromethane and NH4Cl (aq.). The aqueous layer was extracted with dichloromethane and the combined organic layers were dried, filtered and evaporated. The residue was taken up in water, acidified with hydrochloric acid and washed twice with 2,2'-oxybispropane. The aqueous layer was basified with NaOH 50% and extracted three times with dichloromethane. The combined organic layers were dried, filtered and evaporated. The residue was stirred in 2,2'-oxybispropane, filtered off and dried, yielding 22.3 g (83%) of (1H-imidazol-2-yl)-[1-(phenylmethyl)-4-piperidinyl]methanone; mp. 121.0° C. (interm. 27);

reactant | (1 H-imidazol-2-yl)(4-piperidinyl)methanone dihydrobromide | 34 g | Br.Br.N1C(=NC=C1)C(=O)C1CCNCC1
reactant | benzaldehyde | 20 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | potassium acetate | 15 g | C(C)(=O)[O-].[K+]
reactant | thiophene | S1C=CC=C1 | C4H4S
reactant | hydrogen | [H][H] | H2
solvent | methanol | 500 ml | CO | CH4O
catalyst | palladium-on-charcoal | 3 g | [Pd] | Pd
product | (1H-imidazol-2-yl)-[1-(phenylmethyl)-4-piperidinyl]methanone | 22.3 g, 83% | N1C(=NC=C1)C(=O)C1CCN(CC1)CC1=CC=CC=C1 | C16H19N3O
